US08669271B2
4-[5-(4-Cyanomethyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 4-(cyanomethyl)phenylboronic acid following a procedure analogous to that described in Example 28. LC (method 7): tR=1.22 min; Mass spectrum (ESI+): m/z=420 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 4-(cyanomethyl)phenylboronic acid | C(#N)CC1=CC=C(C=C1)B(O)O | C8H8BNO2
product | 4-[5-(4-Cyanomethyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CC=C(C=C2)CC#N)O1 | C25H29N3O3
